US04505912
Methyl 2-(2-diethylamino-ethyl)-5-(4-fluorophenylamino)-2H-1,2,3-triazole-4-carboxylate hydrochloride
A mixture consisting of 4.7 gm (0.02 mol) of methyl 1-(4-fluorophenyl)-5-amino-1H-1,2,3-triazole-4-carboxylate, 70 ml of absolute dimethyl formamide and 8.1 gm (0.06 mol) of 1-chloro-2-diethylamino-ethane was reacted as in Example 1. The reaction mixture was then evaporated in vacuo and the residue was dissolved in 2N hydrochloric acid. The solution was extracted with chloroform, filtered through activated charcoal, dried over sodium sulfate, and the chloroform was distilled off in vacuo. After recrystallization from isopropanol, 1.5 gm (20.2% of theory) of the desired compound were obtained; melting point 179° C.

reactant | methyl 1-(4-fluorophenyl)-5-amino-1H-1,2,3-triazole-4-carboxylate | 0.02 mol, 4.7 gm | FC1=CC=C(C=C1)N1N=NC(=C1N)C(=O)OC | C10H9FN4O2
reactant | 1-chloro-2-diethylamino-ethane | 0.06 mol, 8.1 gm | ClCCN(CC)CC | C6H14ClN
solvent | dimethyl formamide | 70 ml | CN(C=O)C | C3H7NO
product | Methyl 2-(2-diethylamino-ethyl)-5-(4-fluorophenylamino)-2H-1,2,3-triazole-4-carboxylate hydrochloride | Cl.C(C)N(CCN1N=C(C(=N1)C(=O)OC)NC1=CC=C(C=C1)F)CC | InChI=1S/C16H22FN5O2.ClH/c1-4-21(5-2)10-11-22-19-14(16(23)24-3)15(20-22)18-13-8-6-12(17)7-9-13;/h6-9H,4-5,10-11H2,1-3H3,(H,18,20);1H
